US07781478B2
2-(4-aminophenyl)-1-cyclobutyl-6-ethoxy-1H-indole-3-carbonitrile (40 mg, 0.12 mmol), 4-nitrophenyl chloroformate (60 mg, 0.30 mmol), CH2Cl2 (400 μL), and pyridine (25 μL, 0.31 mmol) are stirred at room temperature for 1 hour. Morpholine (60 μL, 0.70 mmol) is added. After stirring at room temperature for an additional 30 minutes, the reaction mixture is diluted in CH2Cl2 and is washed with dilute aqueous NaOH to remove the yellow nitrophenol byproduct. The organic layer is dried and concentrated. Purification by silica gel chromatography (CH2Cl2/EtOAc, 7/3) yields morpholine-4-carboxylic acid[4-(3-cyano-1-cyclobutyl-6-ethoxy-1H-indol-2-yl)-phenyl]-amide (53 mg, 100%) as a white solid.

reactant | 2-(4-aminophenyl)-1-cyclobutyl-6-ethoxy-1H-indole-3-carbonitrile | 0.12 mmol, 40 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCC)C1CCC1 | C21H21N3O
reactant | 4-nitrophenyl chloroformate | 0.30 mmol, 60 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 0.31 mmol, 25 μL | N1=CC=CC=C1 | C5H5N
reactant | Morpholine | 0.70 mmol, 60 μL | N1CCOCC1 | C4H9NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 400 μL | C(Cl)Cl | CH2Cl2
product | morpholine-4-carboxylic acid[4-(3-cyano-1-cyclobutyl-6-ethoxy-1H-indol-2-yl)-phenyl]-amide | 53 mg, 100% | C(#N)C1=C(N(C2=CC(=CC=C12)OCC)C1CCC1)C1=CC=C(C=C1)NC(=O)N1CCOCC1 | C26H28N4O3
